US07964608B2
4,7-Dichloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 84 mmol) was treated with 4-fluoro-butylamine following general procedure B to afford 7-chloro-4-(4-fluoro-butylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (240 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (175 mg) following general procedure E. The above ethylamide (0.52 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 8-chloro-3-ethyl-1-(4-fluoro-butyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (117 mg). LCMS: m/z 380 [M+1]+.

reactant | 4,7-Dichloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 84 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C(=CC=C2C1Cl)Cl)OC | C13H11Cl2NO3
reactant | 4-fluoro-butylamine | FCCCCN | C4H10FN
product | 7-chloro-4-(4-fluoro-butylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 240 mg | C(C)OC(=O)C=1C=NC2=C(C(=CC=C2C1NCCCCF)Cl)OC | C17H20ClFN2O3
